US07105507B2
1,1-Dimethylethyl N-(2-Chloroethyl)-N-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazole-2-ylmethyl)carbamate
Di-tert-butyl dicarbonate (4.14 g, 19 mmol) was added in portions over 2 minutes to a stirred, cooled (0° C.) solution of N-(2-chloroethyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-imidazole-2-methanamine (Description 161, 5.0 g, 17.3 mmol) in dichloromethane (200 mL) and the mixture was at 0° C. for 10 minutes, then at room temperature for 1 hour. The solvent was evaporated under reduced pressure and the residue was purified by flash column chromatography on silica gel, eluting with CH2Cl2/MeOH (98:2), to give the title compound (2.52 g, 34%). m/z (ES+) 390 (M+1).

reactant | Di-tert-butyl dicarbonate | 19 mmol, 4.14 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | N-(2-chloroethyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-imidazole-2-methanamine | 17.3 mmol, 5.0 g | ClCCNCC=1N(C=CN1)COCC[Si](C)(C)C | C12H24ClN3OSi
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 1,1-Dimethylethyl N-(2-Chloroethyl)-N-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazole-2-ylmethyl)carbamate | 2.52 g, 34% | ClCCN(C(OC(C)(C)C)=O)CC=1N(C=CN1)COCC[Si](C)(C)C | C17H32ClN3O3Si
